US05616782
Sulfitation of Lauryl-myristyl Chloroacetate
The reactor is then heated to a temperature of 93° C. and maintained at a temperature of between 90° C. and 97° C. for about 11 hours. HPLC analysis of the resulting slurry indicates that the sodium lauryl-myristyl sulfoacetate is substantially free of monochloroacetic acid and its salts.

reactant | sodium lauryl-myristyl sulfoacetate | S(=O)(=O)(O)CC(=O)OCCCCCCCCCCCCCCCCCCCCCCCCCC.[Na]
reactant | monochloroacetic acid | ClCC(=O)O | C2H3ClO2
product | Lauryl-myristyl Chloroacetate | ClCC(=O)OCCCCCCCCCCCCCCCCCCCCCCCCCC | C28H55ClO2
